US04552878
The 1-(3-chloropropyl-4-(3,4-dimethoxyphenyl)piperazine is prepared in the following manner: 11.5 g (70.2 m. moles) of 1-bromo-3-chloropropane are added quickly with stirring to a mixture of 13 g (58.5 m. moles) of 1-(3,4-dimethoxyphenyl)piperazine [prepared according to P. C. Jain et coll. J. Med. Chem. 10, 812 (1967)] and 9.7 g (70.2 m. moles) of potassium carbonate in 60 cc of N,N-dimethylformamide. The stirring is continued for 4 hours 30 min at ambient temperature. The inorganic products are then filtered and the filtrate concentrated to dryness under reduced pressure. The residue is dissolved in ether and the solution obtained washed with water, then dried on sodium sulfate. After evaporation of the ether, there is obtained 14 g (yield) 80%) of 1-(3-chloropropyl)-4-(3,4-dimethoxyphenyl)piperazine that is used without any other purification.

reactant | 1-bromo-3-chloropropane | 11.5 g | BrCCCCl | C3H6BrCl
reactant | 1-(3,4-dimethoxyphenyl)piperazine | 13 g | COC=1C=C(C=CC1OC)N1CCNCC1 | C12H18N2O2
reactant | potassium carbonate | 9.7 g | C([O-])([O-])=O.[K+].[K+]
solvent | N,N-dimethylformamide | 60 cc | CN(C=O)C | C3H7NO
product | 1-(3-chloropropyl)-4-(3,4-dimethoxyphenyl)piperazine | ClCCCN1CCN(CC1)C1=CC(=C(C=C1)OC)OC | C15H23ClN2O2
